*$
* OPA547
*****************************************************************************
* (C) Copyright 2022 Texas Instruments Incorporated. All rights reserved.
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Online Design Tools, Texas Instruments Inc.
* Part: OPA547
* Date: 07OCT2022
* Model Type: ALL IN ONE
* EVM Order Number: OPA547EVM
* EVM Users Guide: SBOU132-November 2015
* Datasheet: SBOS056F - JANUARY 2002 - JULY 2005
*
* Model Version: Final 1.1
*
*****************************************************************************
*
* Updates:
*
* Final 1.1
* Updated PSpice symbol.
*
* Final 1.0 :
* Release to Web
*
*****************************************************************************
* CONNECTIONS:  NON-INVERTING INPUT
*               | INVERTING INPUT
*               | | CURRENT LIMIT ADJUST
*               | | | NEGATIVE POWER SUPPLY
*               | | | | POSITIVE POWER SUPPLY
*               | | | | | OUTPUT
*               | | | | | | ENABLE/STATUS
*               | | | | | | |
.SUBCKT OPA547  1 2 3 4 5 6 7
*****************************************************************************
Q2       18  16  14   PSUB
R3       13  14   8.4K
Q1       13  12  11   LAT5
R15      40  4    .4
Q9       5   34  35   NMIN 480
Q4       25  26  4    NMAX 2
HCCVSP   47  36   V475 -2000
HCCVSN   42  4    V475 -2000
GNEGDRV  5   37  31  36   -.00025
R4       13  15   8.4K
GAINBLK  26  4   18  19   .00175
R8       19  4    1K
R6       17  1    1K
R5       2   16   1K
R7       18  4    1K
C2       37  36   11PF
C1       26  25   31PF
Q3       19  17  15   PSUB
Q7       5   37  38   NMIN 24
R17      38  4    690
D6       32  31   DIODE 18
D3       27  26   DIODE 1
D5       27  37   DIODE 10
D2       23  22   DIODE 6
D1       10  12   DIODE 6
VCLMP    27  4    DC .8
VDUM     20  4    DC 0
R9       21  20   35K
C3       21  32   15PF
FICOMP   37  4    VDUM 1
D4       29  28   DIODE 1
R13      28  4    750
Q6       31  29  30   NMIN 2
R14      30  4    300
R18      39  38   100
DCLAMP   37  36   DIODE 1
R12      25  33   1K
R0       32  34   25
V475     43  4    DC 4.75
GCLPGAIN 5   51  35  47   .00015
Q11      33  51  36   NMIN 1
C5       51  33   20PF
D7       48  51   DIODE 1
VDP      48  36   DC .65
R21      3   43   31600
D8       49  41   DIODE 1
Q12      37  41  4    NMIN 1
GCLNGAIN 5   41  40  42   .00015
V1I459   49  4    DC .65
C6       41  37   20PF
DZ1      31  36   ZEN
VCM      5   9    DC 1.4
D9       45  46   DIODE 1
D10      45  7    DIODE 1
IBES     5   45   60UA
R22      7   4    250K
VBES     46  4    DC 3.6
R16      34  36   2K
R1       35  36   .4
VTHES    44  4    DC 2.0
DP2      4   1    DIODE 1
DP1      1   5    DIODE 1
DP4      4   2    DIODE 1
DP3      2   5    DIODE 1
DP5      3   5    DIODE 10
DP6      4   3    DIODE 50
DP8      4   6    DIODE 1
DP7      6   5    DIODE 1
DP9      7   5    DIODE 1
DP10     4   7    DIODE 1
SVCS1    36  6   45  44   VSM
SVCS2    32  31  45  44   VSM2
CS2      4   2    3PF
CS1      4   1    3PF
CS3      2   1    2.5PF
Q5       25  22  24   LAT5
R11      5   24   300
R10      5   23   300
I2       22  29   200UA
Q10      36  39  40   NMIN 480
Q8       5   33  32   NMIN 16
I1       12  4    100UA
R2       9   11   1K
R19      9   10   1K
*
* DEVICE MODELS
.MODEL ZEN D(IS=6E-16 CJO=1E-15 RS=1 BV=.2)
.MODEL LAT5 PNP(IS=4E-15 BF=80 VAF=80 CJE=1E-13 CJC=6E-13  TF=3.5E-8 RC=1.2E3 )
+
.MODEL PSUB PNP(IS=6E-16 BF=360 VAF=140 CJE=5E-13 CJC=2.5E-13 TF=2.5E-10
+ RC=1.2E3)
.MODEL NMAX NPN(IS=6E-16 BF=1200 VAF=140 CJE=5E-13 CJC=2.5E-13 TF=2.5E-10
+ RC=1.0E3)
.MODEL NMIN NPN(IS=6E-16 BF=300 VAF=140 CJE=5E-13 CJC=2.5E-13 TF=2.5E-10
+ RC=1.0E3)
.MODEL DIODE D(IS=6E-16 CJO=1E-15 RS=1)
.MODEL VSM2 VSWITCH(RON=1500 ROFF=1E7 VON=1.9 VOFF=2.1)
.MODEL VSM VSWITCH(RON=.1 ROFF=5E5 VON=2.1 VOFF=1.9)
.ENDS OPA547
*
